Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-0.28775383735800003
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:3],2.2509491926900003
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[H:9].[H:3],4.93916170809
[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[O:3][C:4][C:5]>>[C:1]=[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9],0.0252041980202
[H:1][O:2][C:3][C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-4.19612319404
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15],4.580975002980001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:6][H:7]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.52512554155
[H:1][C:2]#[C:3][C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.98935132507
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.363091991619998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],3.92147037049
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:10])([H:12])[H:13])([H:9])[H:14].[C:3]([H:4])([H:5])([O:6][H:7])[C:8]#[C:11],3.62274510836
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2].[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],6.10357458928
[H:11].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.95369285663
[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[H:8],-7.58978472343
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.19382781967
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.97296469831
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6],0.424055767241
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-7.640273735269999
[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.05012917264
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.72414411847
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9]1>>[H:1][C:2][O:9][C:8][C:5]([C:3][H:4])([H:6])[H:7],8.006762354880001
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7],4.39807257424
[H:1][C:2][O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],1.7815957075
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],2.26409437911
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],6.08664949161
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.01336739072
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.39361366138
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.66908647305
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-4.92863803165
